US07435837B2
Treatment of 2′,6′-difluoro-1,1′-biphenyl-2-ol (3.8 g, 18.43 mmol) with potassium carbonate (10.19 g, 73.72 mmol) and allyl bromide (2.67 g, 22.11 mol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-2′,6′-difluoro-1,1′-biphenyl-2-ol. Treatment of the 3-allyl-2′,6′-difluoro-1,1′-biphenyl-2-ol (3.41 g, 13.85 mmol) with 3-chloroperoxybenzoic acid (7.25 g, 41.54 mmol, 77%) followed by potassium carbonate (4.78 g, 34.62 mmol) generally according to the procedure described for Intermediate 9 afforded 3.5 g (72%) of (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol as an amber oil. Anal. calcd. for C15H12F2O2: C, 68.7; H, 4.61. Found C, 67.26; H, 4.5.

reactant | 2′,6′-difluoro-1,1′-biphenyl-2-ol | 18.43 mmol, 3.8 g | FC1=C(C(=CC=C1)F)C=1C(=CC=CC1)O | C12H8F2O
reactant | potassium carbonate | 73.72 mmol, 10.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 22.11 mol, 2.67 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | 3-allyl-2′,6′-difluoro-1,1′-biphenyl-2-ol | C(C=C)C1=C(C(=CC=C1)C1=C(C=CC=C1F)F)O | C15H12F2O
reactant | 3-allyl-2′,6′-difluoro-1,1′-biphenyl-2-ol | 13.85 mmol, 3.41 g | C(C=C)C1=C(C(=CC=C1)C1=C(C=CC=C1F)F)O | C15H12F2O
reactant | 3-chloroperoxybenzoic acid | 41.54 mmol, 7.25 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 34.62 mmol, 4.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 3.5 g, 72% | FC1=C(C(=CC=C1)F)C1=CC=CC=2CC(OC21)CO | C15H12F2O2
